US07129239B2
Preparation of {1-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethyl}-isopropylamine (15A-1)
A solution of 1-[9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethanone I-(15A-1)a (16 mg, 0.038 mmol) and isopropylamine (6.5 μl, 0.076 mmol) in methylene chloride (0.3 ml) was stirred at room temperature and to it was added titanium(IV) isopropoxide (34 μl, 0.114 mmol). The reaction mixture was stirred for 3 hours and then methanol (0.5 ml) was added followed by sodium borohydride (5 mg). When the reaction was shown to be complete by LC/MS it was purified by TLC preparative plate using 10% methanol/methylene chloride with 1% ammonium hydroxide as the solvent to obtain title compound 15A-1. A solution of the material in methylene chloride was treated with excess 1 N HCl in diethyl ether, stirred, evaporated to dryness, and then triturated in diethyl ether to afford the hydrochloride salt of compound 15A-1 (5.9 mg): +ESI MS (M+1) 460.5; 1H NMR (500 MHz, CD3OD) δ 9.08 (s, 1H), 7.77 (d, J=8.3 Hz, 1H), 7.64 (s, 1H), 7.59–7.48 (m, 3H), 7.41 (d, J=8.8 Hz, 2H), 5.38 (q, J=6.2 Hz, 1H), 3.45 (septuplet, J=6.5 Hz, 1H), 1.84 (d, J=6.7 Hz, 3H), 1.43 (d, J=6.7 Hz, 3H), 1.41, (d, J=6.2 Hz, 3H).

reactant | 1-[9-(4-chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethanone | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)C(C)=O | C19H11Cl3N4O
reactant | isopropylamine | 0.076 mmol, 6.5 μl | C(C)(C)N | C3H9N
reactant | methanol | 0.5 ml | CO | CH4O
reactant | sodium borohydride | 5 mg | [BH4-].[Na+]
solvent | methylene chloride | 0.3 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) isopropoxide | 0.114 mmol, 34 μl | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | {1-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-ethyl}-isopropylamine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)C(C)NC(C)C | C22H20Cl3N5
